US07662778B2
(4) Synthesis of Boc-D-Tyr(Me)-L-Ile-L-Pro-OBzl
While cooling on ice, TFA (4 mL) was added to Boc-L-Ile-L-Pro-OBzl (1.00 g, 2.6 mmol), and this was left to stand for 30 minutes. TFA was removed by evaporation, and the residue was dried under reduced pressure. This was dissolved in DMF (6 mL), and Boc-D-Tyr(Me)-OH (770 mg, 2.6 mmol) was added. Then while cooling on ice, HOBt.H2O (597 mg, 3.9 mmol), HBTU (1.50 g, 3.9 mmol), and Et3N (0.88 ml, 6.3 mmol) were added, and the mixture was stirred for 16 hours. The reaction solution was concentrated, and extacted with ethyl acetate. The extract was washed 3 times each with 10% aqueous citric acid solution, 4% aqueous sodium bicarbonate solution, and saturated brine, and dried over magnesium sulfate, and then ethyl acetate was removed by evaporation. Purification by silica gel chromatography yielded the desired product as a foam (column: Merck Kieselgel 60 Φ 3.4×30 cm, eluent: CHCl3/MeOH, 99/1). TLC: Rf, 0.45 (CHCl3/MeOH, 19/1). Yield: 1.17 g (2.06 mmol, 79%).

reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Boc-L-Ile-L-Pro-OBzl | 2.6 mmol, 1.00 g | N([C@@H]([C@@H](C)CC)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C23H34N2O5
reactant | Boc-D-Tyr(Me)-OH | 2.6 mmol, 770 mg | N([C@H](CC1=CC=C(C=C1)OC)C(=O)O)C(=O)OC(C)(C)C | C15H21NO5
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 3.9 mmol, 597 mg | O | H2O
reactant | HBTU | 3.9 mmol, 1.50 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 6.3 mmol, 0.88 ml | CCN(CC)CC | C6H15N
product | Boc-D-Tyr(Me)-L-Ile-L-Pro-OBzl | N([C@H](CC1=CC=C(C=C1)OC)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C33H45N3O7
